US08278331B2
A solution of 4-chloro-pyridine-2-carbonyl chloride (150 g, 0.857 mol) in DCM (750 ml) was slowly added to a solution of 2-methyl-propan-2-ol (158.8 g, 2.14 mol) and DMAP (21 g, 0.171 mol) in DCM (750 mL) and pyridine (750 mL). The resultant mixture was stirred at 30° C. overnight. The reaction mixture was concentrated in vacuo and the residue was purified by chromatography to give 4-chloro-pyridine-2-carboxylic acid t-butyl ester (90 g, 49% yield) as a yellow solid. 1H NMR (CDCl3): δ 8.63 (d, J=8.0 Hz, 1H), 8.03 (s, 1H), 7.44 (d, J=8.0 Hz 1H), 1.63 (s, 9H); MS (ESI) m/z: 214 (M+H+).

reactant | 4-chloro-pyridine-2-carbonyl chloride | 0.857 mol, 150 g | ClC1=CC(=NC=C1)C(=O)Cl | C6H3Cl2NO
reactant | 2-methyl-propan-2-ol | 2.14 mol, 158.8 g | CC(C)(C)O | C4H10O
solvent | DCM | 750 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.171 mol, 21 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 750 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 750 mL | N1=CC=CC=C1 | C5H5N
product | 4-chloro-pyridine-2-carboxylic acid t-butyl ester | 90 g, 49% yield | C(C)(C)(C)OC(=O)C1=NC=CC(=C1)Cl | C10H12ClNO2
